US05739742
A bismuth oxide powder (whose average particle size is about 2 to 3 μm) and an antimony oxide powder (whose average particle size is about 2 to 3 μm) were blended at a weight ratio of 85:15. The blended powder was heat treated at a temperature of 550° C. for 5 hrs. in the air. Further, bismuth oxide fine particles (whose average particle size is about 2 to 3 μm) and chromium oxide fine powder (whose average particle size is about 0.5 to 1.5 μm) were mixed at a weight ratio of 75:25. The mixed powder was heat treated at a temperature of 550° C. for 5 hrs. in the air. These were blended at a weight ratio of 10:1 and ground fine for 18 hrs. by a wet method by means of stabilizing zirconia balls in a monomalon pot. Consequently, a synthetic powder of bismuth oxide/antimony oxide/chromium oxide (whose average particle size is about 2 to 3 μm) was obtained.

reactant | bismuth oxide | [Bi]=O
reactant | antimony oxide | [Sb]=O
reactant | chromium oxide | [O-2].[Cr+3].[O-2].[O-2].[Cr+3]
product | bismuth oxide antimony oxide chromium oxide | [Bi]=O.[Sb]=O.[O-2].[Cr+3].[O-2].[O-2].[Cr+3] | InChI=1S/Bi.2Cr.5O.Sb/q;2*+3;;;3*-2;
